US05721234
Preparation of N-(5-acetylamino-indan-2-yl)-acetamide
The mixture of N-(5-nitro-indan-2-yl)-acetamide (20.5 g, 93 mmol) in tetrahydrofuran (200 mL) was combined with acetic anhydride (10 mL) and Raney nickel (5 g) and stirred under an atmosphere of hydrogen gas (in a balloon) at room temperature for 24 h. Additional Raney nickel was added and the balloon recharged with hydrogen gas and stirred an additional 24 h. After removing the Raney nickel by filtration through a celite pad and washing with methanol several times, the filtrate was evaporated to a syrup. The residue was triturated with ether/water and the resulting white solid collected by filtration (9.2 g, 52% yield overall from 2-aminoindan, prepared in Example 20).

reactant | N-(5-nitro-indan-2-yl)-acetamide | 93 mmol, 20.5 g | [N+](=O)([O-])C=1C=C2CC(CC2=CC1)NC(C)=O | C11H12N2O3
reactant | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
catalyst | Raney nickel | 5 g | [Ni] | Ni
product | N-(5-acetylamino-indan-2-yl)-acetamide | 52% yield | C(C)(=O)NC=1C=C2CC(CC2=CC1)NC(C)=O | C13H16N2O2
